US05530019
Step 2: Preparation of (E)-2-nonenoic acid
To a solution of (E)-ethyl 2-nonenoate in ethanol and 1,4-dioxane was added a 1N aqueous solution of sodium hydroxide. After being stirred at room temperature for 3 hours, the reaction mixture was concentrated and acidified with diluted hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated to give the object compound.

reactant | (E)-ethyl 2-nonenoate | C(\C=C\CCCCCC)(=O)OCC | C11H20O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (E)-2-nonenoic acid | C(\C=C\CCCCCC)(=O)O | C9H16O2
